US07834194B2
1-Cyclohexyl-3-[5-(2-fluoro-pyridin-4-yl)-benzo[b]thiophen-2-ylmethyl]-pyrrolidin-2-one
Add 3-(5-bromo-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one (250 mg, 0.64 mmol), 2-fluoropyridine-4-boronic acid (200 mg, 1 mmol), LiCl (10 eq) and Pd(PPh3)4 (0.05 eq) into a solution of dioxane (10 mL) and 2M Na2CO3 (2 mL) and heat at 80° C. for 1 hour. Pour the reaction mixture into water and extract with ethyl acetate. Dry over sodium sulfate, filter, and concentrate. Purify by silica gel (20-50% ethyl acetate in hexanes) to give the title compound as a pale yellow powder (260 mg, 58%): MS (APCI-pos mode) m/z (rel intensity): 409.2 (M+H, 100%).

reactant | 3-(5-bromo-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one | 0.64 mmol, 250 mg | BrC1=CC2=C(SC(=C2)CC2C(N(CC2)C2CCCCC2)=O)C=C1 | C19H22BrNOS
reactant | 2-fluoropyridine-4-boronic acid | 1 mmol, 200 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | LiCl | 10 eq | [Li+].[Cl-]
reactant | Na2CO3 | 2M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-Cyclohexyl-3-[5-(2-fluoro-pyridin-4-yl)-benzo[b]thiophen-2-ylmethyl]-pyrrolidin-2-one | 260 mg, 58% | C1(CCCCC1)N1C(C(CC1)CC1=CC2=C(S1)C=CC(=C2)C2=CC(=NC=C2)F)=O | C24H25FN2OS
